US06599942B1
A mixture of the title F compound, 2-benzyloxy-5-(2,6-dimethyl-4-nitrophenoxy)-N-(2,2-dimethylpropyl)benzenesulfonamide (1.22 g, 2.45 mmol) and palladium on activated carbon (10 wt. %; 250 mg) in 40 mL of THF is stirred under hydrogen atmosphere (H2, 1 atm) for 8 h. The catalyst is removed by vacuum filtration through celite, washed with THF and the combined filtrate and washings are concentrated. The residue is suspended in CH2Cl2 and the product is collected by vacuum filtration, washed with CH2Cl2 and dried to give 5-(4-amino-2,6-dimethylphenoxy)-2-hydroxy-N-(2,2-dimethylpropyl)benzenesulfonamide: NMR (DMSO-d6) 0.80 (s, 9H), 1.90 (s, 6H), 2.55 (d, 2H, J=7.5), 4.90 (br s, 2H), 6.31 (s, 2H), 6.87 (br s, 1H), 6.93 (br s, 2H), 6.97 (t, 1H, J=7.5), 10.13 (s, 1H).

reactant | 2-benzyloxy-5-(2,6-dimethyl-4-nitrophenoxy)-N-(2,2-dimethylpropyl)benzenesulfonamide | 2.45 mmol, 1.22 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OC1=C(C=C(C=C1C)[N+](=O)[O-])C)S(=O)(=O)NCC(C)(C)C | C26H30N2O6S
catalyst | palladium on activated carbon | 250 mg | [Pd] | Pd
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 5-(4-amino-2,6-dimethylphenoxy)-2-hydroxy-N-(2,2-dimethylpropyl)benzenesulfonamide | NC1=CC(=C(OC=2C=CC(=C(C2)S(=O)(=O)NCC(C)(C)C)O)C(=C1)C)C | C19H26N2O4S
